US07553845B2
Benzyl [7-{N-(tert-butoxycarbonyl)amino}-3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]carboxylate
9.4 g (53.38 mmol) of benzyl crotonate, 1.8 mL (12.8 mmol) of triethylamine and 3.7 g (42.68 mmol) of manganese oxide are successively added to a solution of 5.0 g (10.67 mmol) of 4-[N-(tert-butoxycarbonyl)amino]-1-[2-(3-methoxy-4-nitrophenyl)-2-oxoethyl]pyridinium bromide in 40 mL of dimethylformamide. The reaction mixture is then heated at 90° C. for 4 hours and then filtered on a silica bed, eluting with ethyl acetate. The filtrate is poured over water and extracted with ethyl acetate. After decantation, the organic phase is washed with a saturated sodium chloride solution, dried over sodium sulfate and then concentrated under reduced pressure. The product is purified by chromatography on silica gel, eluting with a toluene/ethyl acetate (95/5 to 70/30) mixture. 2.6 g of an orange-coloured powder are obtained.

reactant | benzyl crotonate | 53.38 mmol, 9.4 g | C(\C=C\C)(=O)OCC1=CC=CC=C1 | C11H12O2
reactant | triethylamine | 12.8 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | 4-[N-(tert-butoxycarbonyl)amino]-1-[2-(3-methoxy-4-nitrophenyl)-2-oxoethyl]pyridinium bromide | 10.67 mmol, 5.0 g | [Br-].C(C)(C)(C)OC(=O)NC1=CC=[N+](C=C1)CC(=O)C1=CC(=C(C=C1)[N+](=O)[O-])OC
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
catalyst | manganese oxide | 42.68 mmol, 3.7 g | [O-2].[Mn+2]
product | Benzyl [7-{N-(tert-butoxycarbonyl)amino}-3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]carboxylate | 2.6 g, Yield: 44% | C(C)(C)(C)OC(=O)NC=1C=CN2C(=C(C(=C2C1)C(=O)OCC1=CC=CC=C1)C)C(C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O | C30H29N3O8
